US06180627B2
2-[3-Chloro-5-(3-[(dimethylamino)methyl]phenethylamino)-2-methyl-6-oxo-1(6H)-pyrazinyl]acetic acid hydrochloride
Benzyl-2-[3-chloro-5-(3-[(dimethylamino)methyl]phenethylamino)-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate (preparation 20) (100 mg, 0.21 mmol) was dissolved in ethanol (10 ml), treated with 10% Pd on carbon catalyst (20 mg), aq HCl (1 m, 0.1 ml) and stirred under a hydrogen atmosphere (20 psi, room temperature, 2 hr). The catalyst was removed by filtration, the solvent evaporated to dryness and the residue azeotroped with CH2Cl2 to give the desired product, slightly impure (white solid, 85 mg). 1H NMR (CD3OD) δ 2.30 (s, 3H), 2.80 (s, 6H), 3.00 (t, 2H), 3.60 (t, 2H), 4.20 (s, 2H), 4.70 (s, 2H), 7.30 (m, 2H), 7.40 (m, 2H). LRMS m/z=379.1 (M+1)+.

reactant | Benzyl-2-[3-chloro-5-(3-[(dimethylamino)methyl]phenethylamino)-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate | 0.21 mmol, 100 mg | C(C1=CC=CC=C1)OC(CN1C(=C(N=C(C1=O)NCCC1=CC(=CC=C1)CN(C)C)Cl)C)=O | C25H29ClN4O3
reactant | HCl | 0.1 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pd on carbon | 20 mg | [Pd] | Pd
product | 2-[3-Chloro-5-(3-[(dimethylamino)methyl]phenethylamino)-2-methyl-6-oxo-1(6H)-pyrazinyl]acetic acid hydrochloride | Cl.ClC1=C(N(C(C(=N1)NCCC1=CC(=CC=C1)CN(C)C)=O)CC(=O)O)C | InChI=1S/C18H23ClN4O3.ClH/c1-12-16(19)21-17(18(26)23(12)11-15(24)25)20-8-7-13-5-4-6-14(9-13)10-22(2)3;/h4-6,9H,7-8,10-11H2,1-3H3,(H,20,21)(H,24,25);1H
